US06326369B1
N-[8-(4,5,6,7-Tetramethoxyindan-2-yl)octyl]acetamide
To a mixture of 8-(4,5,6,7-tetramethoxyindan-2-yl)octylamine (878 mg), potassiumcarbonate (2.54 g),water (16 ml), and ethyl acetate (16 ml) was dropwise added acetyl chloride (0.341 ml) with cooling with ice. After being stirred for 15 min, the reaction mixture was extracted with ethyl acetate. The organic layer was washed with water and saturated aqueous sodium chloride and dried. The solvent was removed in vacuo. The residue was purified by silica gel column chromatography (ethyl acetate) and then with recrystallization (hexane-ethyl acetate) to give the entitled compound (0.830 g) as crystals.

reactant | 8-(4,5,6,7-tetramethoxyindan-2-yl)octylamine | 878 mg | COC1=C2CC(CC2=C(C(=C1OC)OC)OC)CCCCCCCCN | C21H35NO4
reactant | potassiumcarbonate | 2.54 g | C([O-])([O-])=O.[K+].[K+]
reactant | water | 16 ml | O | H2O
reactant | acetyl chloride | 0.341 ml | C(C)(=O)Cl | C2H3ClO
solvent | ethyl acetate | 16 ml | C(C)(=O)OCC | C4H8O2
product | N-[8-(4,5,6,7-Tetramethoxyindan-2-yl)octyl]acetamide | 0.830 g | COC1=C2CC(CC2=C(C(=C1OC)OC)OC)CCCCCCCCNC(C)=O | C23H37NO5
